US09034866B2
Synthesis of 2-(3-hydroxy-3-methylbut-1-yn-1-yl)-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxamide
Into a 20-mL sealed tube was placed a solution of methyl 2-(3-hydroxy-3-methylbut-1-yn-1-yl)-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxylate (100 mg, 0.31 mmol, 1.00 equiv, prepared by reaction of methyl 2-chloro-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxylate with 2-methylbut-3-yn-ol similar to as described in General Procedure G. The crude mixture was reacted with NH3.H2O (2 mL, 37%) in 1,4-dioxane (4 mL) similar to as described in General Procedure M. The resulting solution was stirred overnight at 100° C., diluted with 10 mL of H2O, extracted with 3×50 mL of ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The crude product was purified by Flash-Prep-HPLC with the following conditions (CombiFlash-1): Column, silica gel; mobile phase, DCM/MeOH (100:1-10:1); Detector, UV 254 um. This resulted in 423 mg (44%) of the titled compound as a light yellow solid.

reactant | methyl 2-(3-hydroxy-3-methylbut-1-yn-1-yl)-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxylate | OC(C#CC=1C=CC=2OCCC=3N(C2N1)C=C(N3)C(=O)OC)(C)C | C17H17N3O4
reactant | methyl 2-chloro-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxylate | ClC=1C=CC=2OCCC=3N(C2N1)C=C(N3)C(=O)OC | C12H10ClN3O3
reactant | 2-methylbut-3-yn-ol | CC(CO)C#C | C5H8O
reactant | NH3.H2O | 2 mL | N.O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 10 mL | O | H2O
product | 2-(3-hydroxy-3-methylbut-1-yn-1-yl)-6,7-dihydroimidazo[1,2-d]pyrido[3,2-b][1,4]oxazepine-9-carboxamide | 423 mg, 44% | OC(C#CC=1C=CC=2OCCC=3N(C2N1)C=C(N3)C(=O)N)(C)C | C16H16N4O3
